US04535155
The column is washed with 80 l of water, followed by passage of 240 l of 0-10% EtOH at SV=1.0 (80 l/hr.). The eluate is collected in 8 l fractions which are assayed by HPLC. The HPLC gives an elution curve corresponding to the first half of the attached drawing. It is clear that D-CPC and DA-CPC are eluted in two distinct patterns. A further amount of 10% EtOH may be passed to elute CPC but in order to save on the elution time and obtain a better-defined elution curve, the eluant is replaced with 20% EtOH and the eluate is collected in 8 l fractions. As assayed by HPLC, there is obtained an elution curve corresponding to the second half of the drawing. Each fraction is applied to a thin-layer chromatoplate of microcrystalline cellulose powder (Tokyo Kasei K.K. Japan) and the chromatogram is developed with n-butanol-acetic acid-water (3:1:1, V/V), and dried in air. The image formed by color-reaction with ninhydrin shows a spot each at Rf=0.15 for D-CPC, RF=0.28 for CPC and Rf=0.30 for DA-CPC.

reactant | D-CPC | C1CN(C[C@@H](N1)C(=O)O)CCCC(=O)O | C9H16N2O4
reactant | EtOH | CCO | C2H6O
reactant | n-butanol acetic acid water | C(CCC)O.C(C)(=O)O.O
product | ninhydrin | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
